US05620997
2-Chloro-5-nitrobenzamide
A mixture of 2-chloro-5-nitrobenzoic acid (15.0 g, 74.0 mmol) and 200 mL of dichloromethane was reacted with oxalyl chloride (16.2 mL, 186.0 mmol) and a catalytic amount of dimethylformamide. The mixture was stirred at 25° C. for 3 hours. The solvent was removed in vacuo, and the residue was redissolved in 200 mL of dichloromethane. The solution was cooled to 0° C., and ammonia was bubbled through the cold solution for 5 minutes, whereupon the product precipitated to form solution. The product was collected by filtration to yield 6.8 g, mp 174°-175° C.

reactant | 2-chloro-5-nitrobenzoic acid | 74.0 mmol, 15.0 g | ClC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | dichloromethane | 200 mL | ClCCl | CH2Cl2
reactant | oxalyl chloride | 186.0 mmol, 16.2 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-Chloro-5-nitrobenzamide | ClC1=C(C(=O)N)C=C(C=C1)[N+](=O)[O-] | C7H5ClN2O3
